US06821967B2
9-{4-[cis-2,6-dimethyl-4-(1-methyl-1H-benzimidazol-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 2 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 2-(cis-3,5-dimethyl-piperazin-1-yl)-1-methyl-1H-benzimidazole.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | 2-(cis-3,5-dimethyl-piperazin-1-yl)-1-methyl-1H-benzimidazole | C[C@@H]1CN(C[C@@H](N1)C)C1=NC2=C(N1C)C=CC=C2 | C14H20N4
product | 9-{4-[cis-2,6-dimethyl-4-(1-methyl-1H-benzimidazol-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1[C@H](CN(C[C@H]1C)C1=NC2=C(N1C)C=CC=C2)C)(F)F | C34H38F3N5O
